US04684640
Sodium 3-(4-methylthiophenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
A mixture of a solution of 70 mg of 4-nitrobenzyl 3-(4-methylthiophenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate in dioxan and 13 mg of sodium bicarbonate in water, and 10% palladium/charcoal was hydrogenated at 50 psi at 35° for 60 minutes.

reactant | 4-nitrobenzyl 3-(4-methylthiophenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | 70 mg | CC1=CC=C(SC2=C(N3C(CC3S2)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C=C1 | C20H16N2O5S2
reactant | sodium bicarbonate | 13 mg | C([O-])(O)=O.[Na+]
solvent | dioxan | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
catalyst | palladium/charcoal | [Pd] | Pd
product | Sodium 3-(4-methylthiophenoxy)-7-oxo-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | CC1=CC=C(SC2=C(N3C(CC3S2)=O)C(=O)[O-])C=C1.[Na+] | InChI=1S/C13H11NO3S2.Na/c1-7-2-4-8(5-3-7)18-13-11(12(16)17)14-9(15)6-10(14)19-13;/h2-5,10H,6H2,1H3,(H,16,17);/q;+1/p-1
